US05935973
A solution of 2-chloropyridine-3-carboxylic acid (4.09 g) and 1-methylmorpholine (2.7 ml) in dichloromethane (100 ml) was stirred at -5° C. under nitrogen and ethyl chloroformate (2.4 ml) was added dropwise. After 10 minutes a solution of N-benzylidene-1-(4-piperidyl)methylamine (5.0 g) in dichloromethane (25 ml) was added and stirring continued at -5° C. for 2 hours then at ambient temperature for 18 hours. The solvent was removed in vacuo and the residue stirred with potassium hydrogen sulphate solution (1 M; 250 ml) for 5 hours. The mixture was filtered and the filtrate washed with dichloromethane (2×150 ml), basified with aqueous sodium hydroxide solution (5 M) and extracted with dichloromethane (3×150 ml). The combined extracts were dried over magnesium sulphate and the solvent was evaporated to give 4-(aminomethyl)-1-(2-chloro-3-pyridylcarbonyl)-piperidine (4.81 g) contaminated with some 1-methylmorpholine. This material was used in the next reaction without further purification.

reactant | 2-chloropyridine-3-carboxylic acid | 4.09 g | ClC1=NC=CC=C1C(=O)O | C6H4ClNO2
reactant | 1-methylmorpholine | 2.7 ml | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 2.4 ml | ClC(=O)OCC | C3H5ClO2
reactant | N-benzylidene-1-(4-piperidyl)methylamine | 5.0 g | C(C1=CC=CC=C1)=NCC1CCNCC1 | C13H18N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 4-(aminomethyl)-1-(2-chloro-3-pyridylcarbonyl)-piperidine | 4.81 g | NCC1CCN(CC1)C(=O)C=1C(=NC=CC1)Cl | C12H16ClN3O
